US08420684B2
Compound 199 1-(1H-Benzoimidazol-5-yl)-5-(4-bromo-phenyl)-4-(cyclohexylimino)-imidazolidin-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 4-Bromobenzaldehyde (1 mmol) were combined in methanol (2 ml, dry). After 2 hours 2 ml of a solution of KOCN (KSCN) (2 mmol) and Pyridinehydrochloride (2 mmol) in MeOH is added was added. Finally 3-Isocyano-cyclohexane (1 mmol) is added. The reaction was stirred at room temperature for 48 h. After evaporation of the solvent the residue was purified with chromatographic methods. Yield: 0.290 g (64%); mp: 205° C., 1H-NMR (500 MHz, DMSO-D6): 1.05-1.12 (m, 3H, CH2), 1.22-1.28 (m, 3H, CH2), 1.52-1.74 (m, 4H, CH2), 1.86-1.89 (m, 1H, CH2), 4.40 (s, br., 1H, NH), 5.98 (s, 1H, CH—N), 7.24 (d, 3J=8.6 Hz, 2H, Ar), 7.36 (d, 3J=6.6 Hz, 1H, Benzimid), 7.48 (d, 3J=8.6 Hz, 2H, Ar), 7.64 (s, br., 1H, NH), 8.04 (d, 3J=7.6 Hz, 1H. imidazole), 8.08 (s, 1H. imidazole), 12.31 (s, br., 1H, NH). MS m/z 452.3 (M+H)+, HPLC (254 nm): rt 2.95 min (100%)

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-Bromobenzaldehyde | 1 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | KOCN | 2 mmol | O([K])C#N
reactant | Pyridinehydrochloride | 2 mmol | Cl.N1=CC=CC=C1
reactant | 3-Isocyano-cyclohexane | 1 mmol | [N+](#[C-])C1CCCCC1 | C7H11N
solvent | methanol | 2 ml | CO | CH4O
product | 1-(1H-Benzoimidazol-5-yl)-5-(4-bromo-phenyl)-4-(cyclohexylimino)-imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NC(C2C2=CC=C(C=C2)Br)=NC2CCCCC2)=O | C22H22BrN5O
